US05929085
(c) 2-Amino-6,6a,7,8,9,10-hexahydro-12H-pyrido[2,1-c][1,4]benzoxazepine hydrochloride
2-Nitro-6,6a,7,8,9,10-hexahydro-12H-pyrido[2,1-c][1,4]benzoxazepine hydrochloride (2.46 g) dissolved in methanol (50 ml) was treated with 10% Pd--C (0.25 g), and hydrogenated on a Parr Hydrogenator for one hour, filtered and evaporated to yield a tacky solid (2.28 g).

reactant | 2-Nitro-6,6a,7,8,9,10-hexahydro-12H-pyrido[2,1-c][1,4]benzoxazepine hydrochloride | 2.46 g | Cl.[N+](=O)([O-])C=1C=CC2=C(CN3C(CO2)CCCC3)C1
solvent | methanol | 50 ml | CO | CH4O
product | 2-Amino-6,6a,7,8,9,10-hexahydro-12H-pyrido[2,1-c][1,4]benzoxazepine hydrochloride | 2.28 g | Cl.NC=1C=CC2=C(CN3C(CO2)CCCC3)C1 | InChI=1S/C13H18N2O.ClH/c14-11-4-5-13-10(7-11)8-15-6-2-1-3-12(15)9-16-13;/h4-5,7,12H,1-3,6,8-9,14H2;1H
